US03996282
Following the procedure described in 1c above, N,N-dimethyl-N-(4-nitrophenyl)carbamylmethyl-N-3-formamidopropylammonium chloride was catalytically hydrogenated in aqueous solution at 70°-75° C. and at 600 pounds per square inch in the presence of a 5 percent platinum sulfide on charcoal mixture to obtain N,N-dimethyl-N-(4-aminophenyl)carbamylmethyl-N-3-formamidopropylammonium chloride.

reactant | N,N-dimethyl-N-(4-nitrophenyl)carbamylmethyl-N-3-formamidopropylammonium chloride | [Cl-].C[N+](CCCNC=O)(CC(NC1=CC=C(C=C1)[N+](=O)[O-])=O)C
catalyst | platinum sulfide | [Pt]=S
product | N,N-dimethyl-N-(4-aminophenyl)carbamylmethyl-N-3-formamidopropylammonium chloride | [Cl-].C[N+](CCCNC=O)(CC(NC1=CC=C(C=C1)N)=O)C | InChI=1S/C14H22N4O2.ClH/c1-18(2,9-3-8-16-11-19)10-14(20)17-13-6-4-12(15)5-7-13;/h4-7,11H,3,8-10,15H2,1-2H3,(H-,16,17,19,20);1H
